US07332485B2
1-(Benzyloxyimino-Methyl)-Cyclopentanecarboxylic Acid
A mixture of 1-(benzyloxyimino-methyl)-cyclopentanecarboxylic acid methyl ester (2.26 g, 8.65 mmol) and sodium hydroxide (1.0 g, 25.9 mmol) in THF (15 mL), methanol (15 mL) and water (5 mL) was stirred at room temperature for 18 h. The reaction mixture was acidified to pH 4 with 3N aqueous HCl and was extracted with dichloromethane (50 mL×3). The combined organic layers were dried (MgSO4) and were evaporated in vacuo to yield the title compound as a pale yellow oil. (1.91 g, 89%). MH+248.

reactant | 1-(benzyloxyimino-methyl)-cyclopentanecarboxylic acid methyl ester | 8.65 mmol, 2.26 g | COC(=O)C1(CCCC1)C=NOCC1=CC=CC=C1 | C15H19NO3
reactant | sodium hydroxide | 25.9 mmol, 1.0 g | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 1-(Benzyloxyimino-Methyl)-Cyclopentanecarboxylic Acid | C(C1=CC=CC=C1)ON=CC1(CCCC1)C(=O)O | C14H17NO3
